US08866135B2
In the atmosphere of argon, 22.7 g of 2-ethoxynaphthalene-1-boronic acid, 30.0 g of 2-fluoro-5-bromoiodobenzene, 2.31 g of tetrakistriphenylphosphine palladium (0), 300 mL of toluene and 150 mL of an aqueous 2M solution of sodium carbonate were placed in a flask, and the resulting mixture was stirred with heating under reflux for 8 hours. After cooling to room temperature, the reaction solution was extracted with toluene. An aqueous phase was removed, and then, an organic phase was washed with saturated saline. The organic phase was dried with magnesium sulfate, and concentrated. Residues were purified by means of silica gel column chromatography, whereby 24.1 g (yield: 70%) of 2-ethoxy-1-(2-fluoro-5-bromophenyl)naphthalene was obtained.

reactant | 2-ethoxynaphthalene-1-boronic acid | 22.7 g | C(C)OC1=C(C2=CC=CC=C2C=C1)B(O)O | C12H13BO3
reactant | 2-fluoro-5-bromoiodobenzene | 30.0 g | FC1=C(C=C(C=C1)Br)I | C6H3BrFI
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-1-(2-fluoro-5-bromophenyl)naphthalene | 24.1 g, yield: 70% | C(C)OC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC(=C1)Br)F | C18H14BrFO
